US04029681
Methyl furoate (50.4 g.) is dissolved in 180 ml. of methanol. Thereafter 1 g. of 5 percent palladium-on-charcoal is added. This mixture is then hydrogenated at 1 to 3 atmospheres. After 45 hours 0.79 moles of hydrogen are consumed. The black mixture is then filtered through Celite using 50 ml. of methanol to wash the reaction flask and filter. Evaporation of the filtrate under reduced pressure at 40°-45° C. bath temperature yields 51 g. of a yellow oil which is thereafter distilled, collecting that fraction boiling at 32°-35° C. Thereby, methyl tetrahydrofuroate (46.7 g.) is prepared.

reactant | Methyl furoate | 50.4 g | O1C(=CC=C1)C(=O)OC | C6H6O3
reactant | hydrogen | 0.79 moles | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | methyl tetrahydrofuroate | 46.7 g | O1C(CCC1)C(=O)OC | C6H10O3
